US20010056188A1
3-[3,5-Bis(trifluoromethyl)phenylamino]-2-(4-chlorophenylsulfonyl)-3-cyclopentylamino-2-propenenitrile
3-(3,5-Bis(trifluoromethyl)phenylamino)-2-(4-chloro-phenylsulfonyl)-3-methylsulfanyl-2-propenenitrile (0.400 g, 0.8 mmol) was stirred in cyclopentylamine (2 ml) at 80° C. for 2 h and at room temperature for 16 h under nitrogen. Work up as descriped in Example 1, 2) gave 305 mg (71%) of the title compound as pale yellow crystals. Mp 199-200° C. 1H NMR (300 MHz, CDCl3): δ=1.4-1.65 (m, 4H), 1.65-1.85 (m, 4H), 3.56 (sextet, 1H), 7.42 (s, 2H), 7.49 (d, 2H), 7.67 (s, 1H), 7.78 (d, 2H); MA calc for C22H18CIF6N3O2S: C49.12%, H 3.37%, N 7.18%. Found: C48.93%, H 3.31%, N 7.58%.

reactant | 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-(4-chloro-phenylsulfonyl)-3-methylsulfanyl-2-propenenitrile | 0.8 mmol, 0.400 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)SC)(F)F | C18H11ClF6N2O2S2
reactant | cyclopentylamine | 2 ml | C1(CCCC1)N | C5H11N
product | 3-[3,5-Bis(trifluoromethyl)phenylamino]-2-(4-chlorophenylsulfonyl)-3-cyclopentylamino-2-propenenitrile | 305 mg, 71% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)NC1CCCC1)(F)F | C22H18ClF6N3O2S
